US09035059B2
Silver nitrate (4.43 g, 28.8 mmol) was added to a suspension of pivalic acid (1.96 g, 19.2 mmol), 3-cyanopyridine (2.00 g, 19.2 mmol) and ammonium peroxodisulfate (6.58 g, 28.8 mmol) in water (40 mL). The mixture was stirred at room temperature for 10 min and then stirred at an external temperature of 80° C. for 2 hr. After cooling, the reaction mixture was diluted with ethyl acetate and the resulting insoluble matter was removed by filtration through Celite (registered trademark). The aqueous layer was separated from the filtrate, followed by extraction with ethyl acetate. The organic layer was washed with water and brine and dried over anhydrous magnesium sulfate. The desiccant was filtered off and then the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane only→hexane:ethyl acetate=4:1) to afford 6-tert-butylpyridine-2-carbonitrile as a yellow oil (2.71 g).

reactant | pivalic acid | 19.2 mmol, 1.96 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | 3-cyanopyridine | 19.2 mmol, 2.00 g | C(#N)C=1C=NC=CC1 | C6H4N2
reactant | ammonium peroxodisulfate | 28.8 mmol, 6.58 g | [NH4+].[NH4+].[O-]S(=O)(=O)OOS(=O)(=O)[O-]
solvent | water | 40 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Silver nitrate | 28.8 mmol, 4.43 g | [N+](=O)([O-])[O-].[Ag+]
product | 6-tert-butylpyridine-2-carbonitrile | 2.71 g | C(C)(C)(C)C1=CC=CC(=N1)C#N | C10H12N2
